US04861791
To a mixture of 100 ml of trifluoroacetic anhydride and 100 ml of glacial acetic acid was added 89 g of 5-(2-furanyl)pentanol acetate in 100 ml of acetic acid. The reaction mixture was allowed to stand at room temperature for about 16 hours, then poured into water and extracted with methylene dichloride. The extracts were concentrated and the residue distilled to give 60.6 g of 5-(5-acetyl-2-furanyl)pentanol acetate, b.p. 120°-123° C. (0.05 mm).

reactant | trifluoroacetic anhydride | 100 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-(2-furanyl)pentanol acetate | 89 g | C(C)(=O)OCCCCCC=1OC=CC1 | C11H16O3
reactant | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-(5-acetyl-2-furanyl)pentanol acetate | 60.6 g | C(C)(=O)OCCCCCC=1OC(=CC1)C(C)=O | C13H18O4
